US04638068
Preparation of 1,3-Dihydro-α-isopropyl-α-methyl-1,3-dioxo-2-H-pyrrolo[3,4-b]quinoline-2-acetamide
1,3-Dihydro-α-isopropyl-α-methyl-1,3-dioxo-2-H-pyrrolo[3,4-b]quinoline-2-acetonitrile (0.44 g, 0.0015 mol) is dissolved in conc. sulfuric acid (5 ml) at room temperature and stirred overnight. The reaction mixture is poured onto crushed ice (50 ml) and a white precipitate forms and is filtered off, washed with water, aqueous sodium bicarbonate and water and then vacuum dried. This gives 0.34 g (74%) of product, mp 237°-239° C. (dec.). Anal. calcd. for C17H17N3O3 : C, 65.58; H, 5.50; N, 13.50. Found: C, 65.03; H, 5.63; N, 13.19.

reactant | 1,3-Dihydro-α-isopropyl-α-methyl-1,3-dioxo-2-H-pyrrolo[3,4-b]quinoline-2-acetonitrile | 0.0015 mol, 0.44 g | C(C)(C)C(C#N)(N1C(C2=NC=3C=CC=CC3C=C2C1=O)=O)C | C17H15N3O2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 1,3-Dihydro-α-isopropyl-α-methyl-1,3-dioxo-2-H-pyrrolo[3,4-b]quinoline-2-acetamide | C(C)(C)C(C(=O)N)(N1C(C2=NC=3C=CC=CC3C=C2C1=O)=O)C | C17H17N3O3
